US08937060B2
1′-(benzyl)-spiro[isobenzofuran-1(3H),4′-piperidin]-3-thione (D72)
To a mixture of 1′-(phenylmethyl)-spiro[isobenzofuran-1(3H),4′-piperidin]-3-one (25 g, 85.2 mmol) [C.A.S. 37663-42-6] in toluene (600 ml), was added 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane 2,4-disulfide (Lawesson's reagent) (34.47 g, 85.2 mmol was added. The reaction mixture was heated at 140° C. for 2 h. After cooling, the mixture was poured into NH4Cl (aqueous sat. solution) and extracted with DCM. The organic phase was separated, dried (MgSO4) and concentrated in vacuo. The residue was purified by column chromatography (silica gel; DCM/MeOH 3% as eluent). The desired fractions were collected and concentrated in vacuo to a residue that was purified by HPLC to yield intermediate D72 (8 g, 30.3%).

reactant | 1′-(phenylmethyl)-spiro[isobenzofuran-1(3H),4′-piperidin]-3-one | 85.2 mmol, 25 g | C1(=CC=CC=C1)CN1CCC2(CC1)OC(C1=CC=CC=C12)=O | C19H19NO2
reactant | 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane 2,4-disulfide | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
reactant | NH4Cl | [NH4+].[Cl-]
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | 1′-(benzyl)-spiro[isobenzofuran-1(3H),4′-piperidin]-3-thione | C(C1=CC=CC=C1)N1CCC2(CC1)OC(C1=CC=CC=C12)=S | C19H19NOS
